US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid [4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-amide
4-(4-{[4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl]-amino}-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (10 mg, 0.017 mmol), as prepared in Example 61, was dissolved in 50% TFA/DCM (5 mL). The solution was stirred at room temperature for 4 h. It was evaporated and the residue was quenched with 2N ammonium in MeOH (6 mL). The solvent was removed and the residue was washed with water, dried in vacuo to afford the title compound as a white solid (8 mg, 100%). 1H NMR (300 MHz, CD3OD) δ 8.94 (s, 1H), 7.58 (s, 1H), 7.42 (s, 4H), 7.32 (s, 1H), 6.12 (m, 1H), 4.37 (m, 2H), 4.06 (s, 3H), 4.04 (s, 3H), 3.93 (m, 1H), 3.82 (m, 2H), 3.44 (t, J=6.29 Hz, 2H), 3.22 (m, 2H), 2.78 (m, 2H), 1.93-2.10 (m, 4H). LC-MS (ESI) calcd mass 473.2, found 474.5 (MH+).

reactant | 4-(4-{[4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl]-amino}-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.017 mmol, 10 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C32H39N5O5
solvent | TFA DCM | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid [4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-amide | 8 mg, 100% | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C27H31N5O3
